US08022093B2
Thionyl chloride (5 mL, 68.5 mmol) was added to a solution of pure 3′-{N′-[1-(3,4-Dimethylphenyl)-3-methyl-5-oxo-1,5-dihydro-pyrazol-4-ylidene]hydrazino}-2′-hydroxybiphenyl-3-carboxylic acid (Eltrombopag form I) (5 g, 11 mmol) in dry THF (75 mL) followed by addition of DMF (0.5 mL) at room temperature in three-necked flask. The reaction mixture was stirred for one hour and additional thionyl chloride (5 mL, 68.5 mmol) and DMF (0.5 mL) were added. The precipitation of acyl chloride started in half an hour and heptane (90 mL) was added. The thick reaction suspension was stirred for further half an hour, filtrated and washed with 2×50 mL of heptane yielding 5 g of (Z)-3′-(2-(1-(3,4-dimethylphenyl)-3-methyl-5-oxo-1H-pyrazol-4(5H)-ylidene)hydrazinyl)-2′-hydroxybiphenyl-3-carbonyl chloride (Yield: 96%); (HPLC: 95%), that was immediately used for the next step.

reactant | Thionyl chloride | 68.5 mmol, 5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 3′-{N′-[1-(3,4-Dimethylphenyl)-3-methyl-5-oxo-1,5-dihydro-pyrazol-4-ylidene]hydrazino}-2′-hydroxybiphenyl-3-carboxylic acid | 11 mmol, 5 g | CC=1C=C(C=CC1C)N1N=C(C(C1=O)=NNC=1C(=C(C=CC1)C1=CC(=CC=C1)C(=O)O)O)C | C25H22N4O4
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 68.5 mmol, 5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | heptane | 50 mL, 5 g | CCCCCCC | C7H16
product | (Z)-3′-(2-(1-(3,4-dimethylphenyl)-3-methyl-5-oxo-1H-pyrazol-4(5H)-ylidene)hydrazinyl)-2′-hydroxybiphenyl-3-carbonyl chloride | Yield: 96% | CC=1C=C(C=CC1C)N1N=C(/C(/C1=O)=N/NC=1C(=C(C=CC1)C1=CC(=CC=C1)C(=O)Cl)O)C | C25H21ClN4O3
